US06908931B2
N-methylcarbamoyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline.
A stirred solution of 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (487.6 mg, 1.306 mmoles) in methylene chloride (5 mL) at 0° C. was treated with triethylamine (0.24 mL, 1.3 equiv.) and methyl isocyanate (0.10 mL, 1.3 equiv.). The mixture was immediately allowed to warm to room temperature. After 4 hours, the mixture was evaporated and the residue partitioned between ether and 2% phosphoric acid. The organic phase was washed with 1M sodium hydroxide and brine, dried over sodium sulfate, and evaporated to give a solid foam that was triturated with hexane to give the product as a white solid (494.8 mg, 88%). 1H-NMR (CDCl3) δ 2.45 (m, 1H), 2.65-3.10 (m, 3H), 2.73 (s, 3H), 3.38 (m, 1H), 3.79 (s, 3H), 3.85 (s, 3H), 3.90 (m, 2H), 4.03 (t, 1H), 4.45 (m, 1H), 6.38 (s, 1H), 6.58 (s, 1H), 7.32 (m, 10H). Mass spec. 431.2 (MH)+. Anal. Calc. for C27H30N2O3: C-75.32, H-7.02, N-6.51. Found: C-75.04, H-7.13, N-6.35.

reactant | 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 1.306 mmoles, 487.6 mg | C1(=CC=CC=C1)C(CC1NCCC2=CC(=C(C=C12)OC)OC)C1=CC=CC=C1 | C25H27NO2
reactant | triethylamine | 0.24 mL, 1.3 equiv. | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.10 mL, 1.3 equiv. | CN=C=O | C2H3NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-methylcarbamoyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 494.8 mg, 88% | CNC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H30N2O3
